US06121271
2-(4-Methoxy-benzoyl)oxy-4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid tert-butyl ester
At ambient temperature, to a stirred solution containing 4-[4-(9-bromo-2, 3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester (0.402 g, 0.602 mmol) and pyridine (0.292 mL, 3.61 mmol) in CH2Cl2 (6.02 mL) was added a solution of p-anisoyl chloride (0.208 g, 1.20 mmol) in CH2Cl2 (1.20 mL). After 18 h, the reaction was quenched with H2O (30 mL) and extracted with ether. The combined ethereal extracts were washed with sat. aq. NaHCO3 (3×), with sat. aq. CuSO4 (3×), with brine (3×), dried (MgSO4) and concentrated. The crude product was purified on Biotage KP-Sil eluting with 15% acetone/hexane to give 0.354 g (73%) of the title compound. 1H NMR (DMSO-d6) δ 1.33 (s, 9 H), 1.54 (s, 3 H), 2.16 (s, 6 H), 2.34 (s, 3 H), 3.90 (s, 3 H), 7.13-7.19 (m, 4 H), 7.46-7.48 (m, 2 H), 7.60-7.70 (m, 1 H), 8.08-8.13 (m, 4 H), 8.20 (d, 2 H).

reactant | 4-[4-(9-bromo-2, 3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester | 0.602 mmol, 0.402 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)O)=O | C33H31BrO6S2
reactant | pyridine | 3.61 mmol, 0.292 mL | N1=CC=CC=C1 | C5H5N
reactant | p-anisoyl chloride | 1.20 mmol, 0.208 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 6.02 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxy-benzoyl)oxy-4-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid tert-butyl ester | 0.354 g, 73% | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)OC(C2=CC=C(C=C2)OC)=O)=O | C41H37BrO8S2
